US08729078B2
To the solution of 1-methyl-1H-imidazole (2 g, 24.4 mmol) in 16 mL of DCM was added dropwise 4.4 g of trichloroacetyl chloride and the resulting mixture was stirred at 25° C. for 6 h. The mixture was cooled to 0° C. and 3.4 mL of triethylamine was added dropwise with stirring. The solvent was evaporated and the residue was purified by flash column chromatography (petroleum ether/DCM=4/1) to give 2,2,2-trichloro-1-(1-methyl-1H-imidazol-2-yl)ethanone (3.1 g, yield 56%). 1H NMR (300 MHz, CDCl3) δ 7.35 (s, 1H), 7.16 (s, 1H), 4.06 (s, 3H).

reactant | 1-methyl-1H-imidazole | 24.4 mmol, 2 g | CN1C=NC=C1 | C4H6N2
reactant | trichloroacetyl chloride | 4.4 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | triethylamine | 3.4 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 16 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trichloro-1-(1-methyl-1H-imidazol-2-yl)ethanone | 3.1 g, yield 56% | ClC(C(=O)C=1N(C=CN1)C)(Cl)Cl | C6H5Cl3N2O
